US05378689
(2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-N-isobutyl-2-methylhexanamide
A solution of 290 mg (0.93 mmole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) in 3 ml of methanol was mixed with 3 ml of isobutylamine, and the mixture was allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was concentrated by distillation under reduced pressure, and the residue was triturated with hexane to afford 340 mg of the title compound as colorless crystals, melting at 125°-126° C.

reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 0.93 mmole, 290 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
reactant | isobutylamine | 3 ml | C(C(C)C)N | C4H11N
solvent | methanol | 3 ml | CO | CH4O
product | (2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-N-isobutyl-2-methylhexanamide | 340 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCC(C)C)C)O)CC1CCCCC1 | C22H42N2O4
